*Memoria de uma bitcell

simulator lang=spice

.include 'TRISTATE.spi'
.include 'INV.spi'
.include 'PassTransistor.spi'
.include '45nm_LP.pm'

.param VPre = 1
.param Vwd = 1
.param Vwdb = 0

.param TpPre = 0.5n
.param TpWl = 1.5n

.param cap = 15f

Vwl WL Gnd3 PWL 0 0 '(TpWl+2p)' 0 '(TpWl+3p)' 1 (1.5n+7p) 1 (1.5n+10p) 0
Vwdb WD Gnd2 PWL 0 'Vwdb'
Vwd WDB Gnd1 PWL 0 'Vwd'
*En liga em 1  ENB em 0
Venb ENB Gnd PWL 0 1 
Ven EN Gnd PWL 0 0 
Vpre PRE Gnd4 PWL 0 1 '(TpPre-1p)' 1 'TpPre' 0 '(TpWl)' 0 '(TpWl+1p)' 1 

Vvdd Vvdd Gnd 'VPre'

Vdd Vdd Gnd 1
Vgnd Gnd 0 0
Vgnd1 Gnd1 0 0
Vgnd2 Gnd2 0 0
Vgnd3 Gnd3 0 0
Vgnd4 Gnd4 0 0
Vgnd5 Gnd5 0 0

*Bitcell
*Inversor A Y VDD VSS 
X0 Q QB Vdd Gnd INV
X1 QB Q Vdd Gnd INV
*Transistor Drain Gate Source Bulk
M_i_0 BL WL Q Gnd NMOS_VTL W=0.415000U L=0.050000U
M_i_1 BLB WL QB Gnd NMOS_VTL W=0.415000U L=0.050000U

*Write cell
*TRISTATE A Y EN ENB VDD VSS 
X3 WD BL EN ENB Vdd Gnd TI
X2 WDB BLB EN ENB Vdd Gnd TI

*Pre Charge
M_i_2 BL PRE Vvdd Vdd PMOS_VTL W=0.630000U L=0.050000U
M_i_3 BLB PRE Vvdd Vdd PMOS_VTL W=0.630000U L=0.050000U
M_i_4 BL PRE BLB Vdd PMOS_VTL W=0.630000U L=0.050000U

*Bitlines Capacitance
Cbl BL Gnd 'cap'
Cblb BLB Gnd 'cap'
.TRAN 100p 4n

.option rawfmt="psfbin"
.IC V(Q)=1 V(QB)=0 V(BL)=0 V(BLB)=1
